* C:\Users\Ian Diaz\Desktop\TP01\Ex2\Spice.asc
R1 N003 N002 {mc(3.68k,tola)}
C1 N003 0 {mc(560p,tolb)}
R2 N002 N001 50
V1 N001 0 SINE(0 1 1K) AC 1
.ac dec 10 1 10meg
.param tola=0.05
.param tolb=0.1
.step param run 1 100 1
.backanno
.end
